US05420126
A mixture of 6.66 g of 3,4-dihydro-2,2-dimethyl-6-nitro-3-oxo-2H-1,4-benzoxazine, 5.51 g of ethyl bromoacetate, 4.5.6 g of potassium carbonate and 20 ml of acetonitrile was refluxed under heating for 2.5 hours. Then, 10 ml of N,N-dimethylformamide was added and the mixture was stirred at 80° C. for 2 hours. To this mixture was added 2-80 g of ethyl bromoacetate. After an hour of stirring at 80° C., 2.28 g of potassium carbonate was added and the mixture was further stirred at 80° C. for 1 hour. The reaction mixture was then concentrated under reduced pressure and the residue was chromatographed on a silica gel column, elution being carried out with hexane-ethyl acetate (10:.1). The crystals from the eluate were recrystallized from ethyl acetate-hexane to give 7.4 g of ethyl (3,4-dihydro-2,2-dimethyl-6-nitro-3-oxo-2H1,4 -benzoxazin-4-yl)acetate. This compound has the following physicochemical properties.

reactant | 3,4-dihydro-2,2-dimethyl-6-nitro-3-oxo-2H-1,4-benzoxazine | 6.66 g | CC1(OC2=C(NC1=O)C=C(C=C2)[N+](=O)[O-])C | C10H10N2O4
reactant | ethyl bromoacetate | 5.51 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
reactant | ethyl bromoacetate | 2-80 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 2.28 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl (3,4-dihydro-2,2-dimethyl-6-nitro-3-oxo-2H1,4 -benzoxazin-4-yl)acetate | 7.4 g | CC1(OC2=C(N(C1=O)CC(=O)OCC)C=C(C=C2)[N+](=O)[O-])C | C14H16N2O6
